US04921851
To 50 ml of 3N aqueous sodium hydroxide solution is added 10.69 g of 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine dihydrochloride and the mixture is stirred and, then, extracted with chloroform twice (150 ml and 50 ml). The extracts are combined and dried over magnesium sulfate and the solvent is distilled off under reduced pressure to give 7.55 g of 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine as light yellow crystals.

reactant | 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine dihydrochloride | 10.69 g | Cl.Cl.NCCSC=1C=CC=2N(N1)C=CN2
solvent | sodium hydroxide | 3N, 50 ml | [OH-].[Na+]
product | 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine | 7.55 g | NCCSC=1C=CC=2N(N1)C=CN2 | C8H10N4S
